US07635715B2
Step A: Preparation of 2-(2,3-Difluorophenyl)-2-methylpropanoic acid
A mixture of 2-(2,3-difluorophenyl)-2-methylpropanenitrile (9.5 g, 52 mmol) in 50 mL dioxane was treated with 10 mL H2O and concentrated H2SO4 (3 mL, 105 mmol). The resulting mixture was stirred at 110° C. for 16 hours, M+1=201. The reaction was then cooled to room temperature. The mixture was extracted with EtOAc and the organic layer discarded. The water layer was acidified with concentrated HCl, extracted with EtOAc, washed with H2O and brine, dried over anhydrous Na2SO4, and concentrated in vacuo to give 4.74 g of the title compound as a pale yellow solid. MS (m/z)=201 (M+H)+.

reactant | 2-(2,3-difluorophenyl)-2-methylpropanenitrile | 52 mmol, 9.5 g | FC1=C(C=CC=C1F)C(C#N)(C)C | C10H9F2N
reactant | H2O | 10 mL | O | H2O
reactant | H2SO4 | 105 mmol, 3 mL | OS(=O)(=O)O | H2O4S
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(2,3-Difluorophenyl)-2-methylpropanoic acid | 4.74 g | FC1=C(C=CC=C1F)C(C(=O)O)(C)C | C10H10F2O2
